US04064106
2,6-Dimethyl-3-hydroxy-4-t-butylbenzyl bromide was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain 2,6-dimethyl-3-hydroxy-4-t-butylbenzyl dicyclohexylphosphinodithioate, m.p. 113°-116° C, which on testing lasted 150 hours longer than the control. The total number of hours required to reach failure was 1.3 times that of the control.

reactant | 2,6-Dimethyl-3-hydroxy-4-t-butylbenzyl bromide | CC1=C(CBr)C(=CC(=C1O)C(C)(C)C)C | C13H19BrO
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | 2,6-dimethyl-3-hydroxy-4-t-butylbenzyl dicyclohexylphosphinodithioate | C1(CCCCC1)P(=S)(SCC1=C(C(=C(C=C1C)C(C)(C)C)O)C)C1CCCCC1 | C25H41OPS2
